US07115591B2
2-(2-Methoxyimino-2-phenylethyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
A mixture of the product from Example 46, 2-phenacyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (220 mg, 0.476 mmol), methoxylamine hydrochloride (318 mg, 3.8 mmol), and sodium acetate (518 mg, 3.8 mmol) in methanol (100 mL) was stirred at reflux for 48 hours. The reaction mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and saturated aqueous ammonium chloride. The organic layer was washed with brine then dried over MgSO4, and filtered. The filtrate was concentrated in vacuo to provide a brown oil which was purified by column chromatography (silica gel, 70:30 hexanes/ethyl acetate). Fractions containing product were combined and concentrated in vacuo. The residue was crystallized from methanol/water to provide the title compound as a mixture of E and Z oximes (yield: 82 mg, 35%). mp 95–99° C. 1H NMR (300 MHz, CDCl3) δ 3.03 (s, 3H), 4.07 (s, 3H), 5.57 (s, 2H), 6.94 (t, J=9 Hz, 2H), 7.07 (dd, J=9 Hz, 3 Hz, 2H), 7.24 (d, J=9 Hz, 2H), 7.31–7.37 (m, 3H), 7.60–7.67 (m, 2H), 7.74 (s, 1H), 7.83 (d, J=9 Hz, 2H). MS (DCI/NH3) m/z 492 (M+H)+. Anal. calc. for C26H22FN3O4S: C, 63.53; H, 4.51; N, 8.54. Found: C, 63.40; H, 4.51; N, 8.31.

reactant | 2-phenacyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 0.476 mmol, 220 mg | C(C(=O)C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C25H19FN2O4S
reactant | methoxylamine hydrochloride | 3.8 mmol, 318 mg | Cl.O(C)N
reactant | sodium acetate | 3.8 mmol, 518 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-(2-Methoxyimino-2-phenylethyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | CON=C(CN1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1 | C26H22FN3O4S
